US09388161B2
A mixture of (S)-1-(2-methyl-5-propoxy-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.055 g, 0.147 mmol), N-(6-iodopyridin-3-yl)methanesulfonamide (0.046 g, 0.155 mmol), XPhos Precatalyst 2nd Generation (0.012 g, 0.015 mmol), and cesium carbonate (0.144 g, 0.442 mmol) in 1,4-dioxane (2.0 mL) and water (0.40 mL) was heated in the microwave at 100° C. for 1.5 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 25-100% ethyl acetate-hexane) to afford (S)—N-(6-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)pyridin-3-yl)methanesulfonamide (0.007 g, 11%) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ ppm 0.79-0.85 (m, 3H), 1.08 (d, J=6.45 Hz, 3H), 1.17-1.55 (m, 3H), 2.12 (s, 3H), 2.20-2.41 (m, 2H), 2.82-3.01 (m, 1H), 3.04 (s, 3H), 3.28-3.59 (m, 2H), 4.76 (br s, 1H), 6.64-6.86 (m, 1H), 6.98 (br s, 1H), 7.52 (d, J=8.21 Hz, 1H), 7.68 (dd, J=8.79, 2.64 Hz, 1H), 7.87 (d, J=8.50 Hz, 1H), 8.47 (d, J=2.64 Hz, 1H). MS (ESI, pos. ion) m/z 418 [M+H]+.

reactant | (S)-1-(2-methyl-5-propoxy-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.147 mmol, 0.055 g | C[C@@H]1N(C2=CC=C(C(=C2CC1)OCCC)B1OC(C(O1)(C)C)(C)C)C(C)=O | C21H32BNO4
reactant | N-(6-iodopyridin-3-yl)methanesulfonamide | 0.155 mmol, 0.046 g | IC1=CC=C(C=N1)NS(=O)(=O)C | C6H7IN2O2S
reactant | cesium carbonate | 0.442 mmol, 0.144 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
product | (S)—N-(6-(1-acetyl-2-methyl-5-propoxy-1,2,3,4-tetrahydroquinolin-6-yl)pyridin-3-yl)methanesulfonamide | 0.007 g, 11% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C1=CC=C(C=N1)NS(=O)(=O)C)OCCC)C | C21H27N3O4S
